.subckt four_bit_AND a0 a1 a2 a3 b0 b1 b2 b3 result0 result1 result2 result3 vdd gnd
    X1 a0 b0 result0 vdd gnd AND
    X2 a1 b1 result1 vdd gnd AND
    X3 a2 b2 result2 vdd gnd AND
    X4 a3 b3 result3 vdd gnd AND
.ends four_bit_AND