.subckt full_adder a b c_in sum carry vdd gnd 
    X1 a b w1 vdd gnd XOR
    X2 w1 c_in sum vdd gnd XOR

    X3 a b c1 vdd gnd AND
    X4 b c_in c2 vdd gnd AND
    X5 a c_in c3 vdd gnd AND

    X6 c1 c2 c4 vdd gnd OR
    X7 c3 c4 carry vdd gnd OR
.ends full_adder